### PR TITLE
[Merged by Bors] - feat(Algebra/Ring/CentroidHom): The centroid is the centralizer of multiplication operators

### PR DESCRIPTION
**Pull request by mans0954**
The centroid of a non-associative, non-unital algebra coincides with the centralizer of the left and right multiplication operators.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 1]
```diff
@@ -399,6 +407,57 @@ theorem comp_mul_comm (T S : CentroidHom α) (a b : α) : (T ∘ S) (a * b) = (S
   rw [map_mul_right, map_mul_left, ← map_mul_right, ← map_mul_left]
 #align centroid_hom.comp_mul_comm CentroidHom.comp_mul_comm
 
+local notation "L" => AddMonoid.End.mulLeft
+local notation "R" => AddMonoid.End.mulRight
+
+/-- Ring hom from the centroid into the additive monoid endomorphisms. -/
+def toEnd' (α : Type*) [NonUnitalNonAssocSemiring α] :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/CentroidHom.lean:414]:
```suggestion
def toEndRingHom (α : Type*) [NonUnitalNonAssocSemiring α] :
```

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 2]
```diff
@@ -399,6 +407,57 @@ theorem comp_mul_comm (T S : CentroidHom α) (a b : α) : (T ∘ S) (a * b) = (S
...
+    RingHom (CentroidHom α) (AddMonoid.End α) where
+  toFun := toEnd
+  map_add' := toEnd_add
+  map_zero' := toEnd_zero
+  map_one' := toEnd_one
+  map_mul' := toEnd_mul
+
+lemma toEnd'_apply (f : CentroidHom α) : (toEnd' α) f = (f : α →+ α) := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/CentroidHom.lean:422]: This lemma looks like a bad idea to me, since it casts away the type synonym. I think you should stick with
```suggestion
lemma toEnd'_apply (f : CentroidHom α) : toEndRingHom α f = f.toEnd := rfl
```

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 3]
```diff
@@ -131,8 +133,14 @@ theorem coe_toAddMonoidHom_injective : Injective ((↑) : CentroidHom α → α
     this
 #align centroid_hom.coe_to_add_monoid_hom_injective CentroidHom.coe_toAddMonoidHom_injective
 
+lemma map_mul_left (f : CentroidHom α) (a b : α) : f (a * b) = a * f b :=
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:136]: why do you even need this lemma? `map_mul_left f` should Just Work(TM), and it's already `export`ed to the root namespace.
```suggestion
protected lemma map_mul_left (f : CentroidHom α) (a b : α) : f (a * b) = a * f b :=
```

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 4]
```diff
@@ -131,8 +133,14 @@ theorem coe_toAddMonoidHom_injective : Injective ((↑) : CentroidHom α → α
...
+    CentroidHomClass.map_mul_left _ _ _
+
+lemma map_mul_right (f : CentroidHom α) (a b : α) : f (a * b) = f a * b :=
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:139]: same question
```suggestion
protected lemma map_mul_right (f : CentroidHom α) (a b : α) : f (a * b) = f a * b :=
```

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 5]
```diff
@@ -131,8 +133,14 @@ theorem coe_toAddMonoidHom_injective : Injective ((↑) : CentroidHom α → α
...
+    CentroidHomClass.map_mul_right _ _ _
+
 /-- Turn a centroid homomorphism into an additive monoid endomorphism. -/
-def toEnd (f : CentroidHom α) : AddMonoid.End α :=
+def toEnd  (f : CentroidHom α) : AddMonoid.End α :=
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:143]: typo?
```suggestion
def toEnd (f : CentroidHom α) : AddMonoid.End α :=
```

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 6]
```diff
@@ -399,6 +407,57 @@ theorem comp_mul_comm (T S : CentroidHom α) (a b : α) : (T ∘ S) (a * b) = (S
   rw [map_mul_right, map_mul_left, ← map_mul_right, ← map_mul_left]
 #align centroid_hom.comp_mul_comm CentroidHom.comp_mul_comm
 
+local notation "L" => AddMonoid.End.mulLeft
+local notation "R" => AddMonoid.End.mulRight
+
+/-- Ring hom from the centroid into the additive monoid endomorphisms. -/
+def toEndRingHom (α : Type*) [NonUnitalNonAssocSemiring α] :
+    RingHom (CentroidHom α) (AddMonoid.End α) where
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:415]:
```suggestion
    CentroidHom α →+* AddMonoid.End α where
```

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 7]
```diff
@@ -399,6 +407,57 @@ theorem comp_mul_comm (T S : CentroidHom α) (a b : α) : (T ∘ S) (a * b) = (S
   rw [map_mul_right, map_mul_left, ← map_mul_right, ← map_mul_left]
 #align centroid_hom.comp_mul_comm CentroidHom.comp_mul_comm
 
+local notation "L" => AddMonoid.End.mulLeft
+local notation "R" => AddMonoid.End.mulRight
+
+/-- Ring hom from the centroid into the additive monoid endomorphisms. -/
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:413]:
```suggestion
/-- The canonical ring homomorphism from the centroid into the additive monoid
endomorphisms. This is `CentroidHom.toEnd` upgraded to a ring homomorphism. -/
```

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 8]
```diff
@@ -399,6 +407,57 @@ theorem comp_mul_comm (T S : CentroidHom α) (a b : α) : (T ∘ S) (a * b) = (S
...
+def toEndRingHom (α : Type*) [NonUnitalNonAssocSemiring α] :
+    RingHom (CentroidHom α) (AddMonoid.End α) where
+  toFun := toEnd
+  map_add' := toEnd_add
+  map_zero' := toEnd_zero
+  map_one' := toEnd_one
+  map_mul' := toEnd_mul
+
+lemma toEnd'_apply (f : CentroidHom α) : toEndRingHom α f = f.toEnd := rfl
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:422]: why the prime? why not `toEnd_apply`? (or better: `toRingHomEnd_apply`.) And probably you can just get this with `@[simps]` on `toRingHomEnd`.

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 9]
```diff
@@ -399,6 +407,57 @@ theorem comp_mul_comm (T S : CentroidHom α) (a b : α) : (T ∘ S) (a * b) = (S
...
+
+lemma centroid_eq_centralizer_mul_op :
+    MonoidHom.mrange (toEndRingHom α) = Submonoid.centralizer (Set.range L ∪ Set.range R) := by
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:425]: Why are you using `MonoidHom.mrange` and not `RingHom.rangeS` (and `Subsemiring.centralizer`)?

**Review by j-loreaux — COMMENTED** [review]
Thanks! I think this needs a bit of work and another round of review afterwards.

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 10]
```diff
@@ -399,6 +407,57 @@ theorem comp_mul_comm (T S : CentroidHom α) (a b : α) : (T ∘ S) (a * b) = (S
   rw [map_mul_right, map_mul_left, ← map_mul_right, ← map_mul_left]
 #align centroid_hom.comp_mul_comm CentroidHom.comp_mul_comm
 
+local notation "L" => AddMonoid.End.mulLeft
+local notation "R" => AddMonoid.End.mulRight
+
+/-- Ring hom from the centroid into the additive monoid endomorphisms. -/
+def toEndRingHom (α : Type*) [NonUnitalNonAssocSemiring α] :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/CentroidHom.lean:414]: This result is also in #8742

Comment (j-loreaux) [reply Mathlib/Algebra/Ring/CentroidHom.lean:414]: #8742 is on the queue, so this PR will need to merge master afterwards.

Comment (mans0954) [reply Mathlib/Algebra/Ring/CentroidHom.lean]: This has now been done.

File: Mathlib/Algebra/Ring/CentroidHom.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/Algebra/Ring/CentroidHom.lean]: This lemma is no longer needed, so I removed it.

File: Mathlib/Algebra/Ring/CentroidHom.lean (hunk 8 above)
Comment (mans0954) [reply Mathlib/Algebra/Ring/CentroidHom.lean]: We now get this from:
```
@[simps]
def toEndRingHom : CentroidHom α →+* AddMonoid.End α where
```

File: Mathlib/Algebra/Ring/CentroidHom.lean (hunk 9 above)
Comment (mans0954) [reply Mathlib/Algebra/Ring/CentroidHom.lean]: That would make more sense. Done, thanks.

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 11]
```diff
@@ -436,6 +439,43 @@ instance : Module R (CentroidHom α) :=
...
+      simp only [Set.mem_range, exists_apply_eq_apply, true_or]
+    , fun a b => by
+      simp only [ZeroHom.toFun_eq_coe, AddMonoidHom.toZeroHom_coe]
+      rw [← AddMonoid.End.mulRight_apply_apply, ← AddMonoid.End.mulRight_apply_apply,
+        ← AddMonoid.mul_apply, ← AddMonoid.mul_apply]
+      apply congrFun (congrArg FunLike.coe (id _)) a
+      rw [(Submonoid.mem_centralizer_iff.mp h)]
+      apply (Set.mem_union _ _ _).mpr
+      simp only [Set.mem_range, exists_apply_eq_apply, or_true] ⟩
+    exact rfl
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:477]: :golfing:
```suggestion
  refine ⟨?_, fun h ↦ ?_⟩
  · rintro ⟨f, rfl⟩ S (⟨a, rfl⟩ | ⟨b, rfl⟩)
    · exact AddMonoidHom.ext fun b ↦ (map_mul_left f a b).symm
    · exact AddMonoidHom.ext fun a ↦ (map_mul_right f a b).symm
  · rw [Subsemiring.mem_centralizer_iff] at h
    refine ⟨⟨T, fun a b ↦ ?_, fun a b ↦ ?_⟩, rfl⟩
    · exact congr($(h (L a) (.inl ⟨a, rfl⟩)) b).symm
    · exact congr($(h (R b) (.inr ⟨b, rfl⟩)) a).symm
```

File: Mathlib/Algebra/Group/Hom/Defs.lean [hunk 12]
```diff
@@ -1355,6 +1355,8 @@ theorem coe_one : ((1 : AddMonoid.End A) : A → A) = id := rfl
 theorem coe_mul (f g) : ((f * g : AddMonoid.End A) : A → A) = f ∘ g := rfl
 #align add_monoid.coe_mul AddMonoid.coe_mul
 
+lemma mul_apply (f g : AddMonoid.End A) (a : A) : (f * g) a = f (g a) := rfl
```
Comment (j-loreaux) [inline Mathlib/Algebra/Group/Hom/Defs.lean:1358]: This lemma has `A` as an explicit argument. That's probably not what is intended.
```suggestion
lemma mul_apply (f g : AddMonoid.End A) (a : A) : (f * g) a = f (g a) := rfl
```

**Review by j-loreaux — COMMENTED** [review]
I encourage you to try your hand at golfing (either your own proofs, or others). I think you may learn lots of ways to simplify your arguments. Golfing is not *always* desirable (sometimes it can be detrimental to proof readability), but I think my golfed proof is actually more readable because it boils it down to the key features.

One thing to pay attention to in particular: use `rcases` or `rintro`. These are your friend, *especially* with the `rfl` feature which does the automatic substitution for you.

`refine` is also nice because it can be used, as I did, to provide one piece of a `⟨T, ?_, ?_⟩` and leave the rest as goals.

Also, if you find yourself using lots of rewrite lemmas that are all definitional, maybe see if at the end you can avoid most of them.

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 13]
```diff
@@ -436,6 +439,43 @@ instance : Module R (CentroidHom α) :=
 local notation "L" => AddMonoid.End.mulLeft
 local notation "R" => AddMonoid.End.mulRight
 
+lemma centroid_eq_centralizer_mul_op :
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:442]: I think the name of this lemma is a bit weird because `MulOpposite` is not explicitly involved. Maybe this instead?
```suggestion
lemma centroid_eq_centralizer_mulLeftRight :
```

File: Mathlib/Algebra/Group/Hom/Defs.lean (hunk 12 above)
Comment (mans0954) [reply Mathlib/Algebra/Group/Hom/Defs.lean]: I assume this would be:
```
lemma mul_apply {A} [AddZeroClass A] (f g : AddMonoid.End A) (a : A) : (f * g) a = f (g a) := rfl
```
However, with the latest golfing, this lemma is no longer required for this PR, so I've removed it.

File: Mathlib/Algebra/Ring/CentroidHom.lean (hunk 13 above)
Comment (mans0954) [reply Mathlib/Algebra/Ring/CentroidHom.lean]: `mul_op` was short for "Multiplication Operator".
